US04714702
4.0 g of N-(2-fluoroacetamido-5-nitrobenzoyl)-2,4-dimethylaniline are added to a mixture of 30 ml of acetic acid and 3.5 g of boron trifluoride etherate, and the mixture is stirred under heating at 100° to 105° C. for 30 minutes. The mixture is cooled and concentrated under reduced pressure to remove acetic acid. 50 ml of water are added to the residue, and the mixture is neutralized with potassium carbonate. The mixture is extracted with chloroform, and the extract is washed with water and dried. The chloroform solution is concentrated under reduced pressure to remove solvent. Isopropanol is added to the residue, and crystalline precipitates are collected by filtration. The thus-obtained crystals (3.0 g, M.p. 198°-200° C.) are recrystallized from a mixture of dimethylformamide and ethanol (1:2). 2.6 g of 2-fluoromethyl-3-(2,4-dimethylphenyl)-6-nitro-4(3H)-quinazolinone are obtained as colorless prisms.

reactant | N-(2-fluoroacetamido-5-nitrobenzoyl)-2,4-dimethylaniline | 4.0 g | FCC(=O)NC1=C(C(=O)NC2=C(C=C(C=C2)C)C)C=C(C=C1)[N+](=O)[O-] | C17H16FN3O4
reactant | boron trifluoride etherate | 3.5 g | B(F)(F)F.CCOCC
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-fluoromethyl-3-(2,4-dimethylphenyl)-6-nitro-4(3H)-quinazolinone | 2.6 g | FCC1=NC2=CC=C(C=C2C(N1C1=C(C=C(C=C1)C)C)=O)[N+](=O)[O-] | C17H14FN3O3
